* BQ24074RGTR behavioral model: charger + power-path
* Pins: IN, BAT, SYS, TS, ISET, ILIM, ITERM, EN1, EN2, CHG, PGOOD, GND
* Key behaviors:
*   - SYS follows max(IN-0.2V, BAT-0.05V) when input present; follows BAT when no input
*   - Charge current set by ISET resistor: Ichg = 540 / Riset (Ω)  [Kiset ~540 AΩ]
*   - Input current limit set by ILIM resistor: Ilim = 1550 / Rilim (Ω) for Rilim >=1.1k
*   - TS pin biased by ~75 uA internal current source; valid window ~0.3 V - 2.1 V
*   - SYS output current-limited and regulated to ~4.4V max
*   - PGOOD open-drain active-low when valid VIN present (VIN > UVLO ~3.2V)
*   - CHG open-drain active-low while charging

.SUBCKT BQ24074 IN BAT SYS TS ISET ILIM ITERM EN1 EN2 CHG PGOOD GND

* Internal reference for current programming
.PARAM K_ISET=540.0
.PARAM K_ILIM=1550.0

* Detect valid input (above ~3.2V UVLO); smoothed for convergence
BVIN_OK VIN_OK 0 V=1.65*(1+TANH((V(IN,GND)-3.5)/0.1))

* Internal NTC bias current source (~75 uA) sourced into TS when VIN valid
GTS GND TS VALUE={V(VIN_OK)>1.0 ? 75u : 0}

* TS compliance window: VHOT ~0.30 V, VCOLD ~2.10 V (absolute thresholds)
* Smooth window function for better convergence
BTS_OK TS_OK 0 V=V(VIN_OK)*0.25*(1+TANH((V(TS,GND)-0.30)/0.05))*(1-TANH((V(TS,GND)-2.10)/0.05))

* Charge current programming from ISET resistor
* Behavioral model uses a fixed typical charge current when enabled.
* For accurate current, set ICHG externally via the ICHG parameter.
.PARAM ICHG=0.5
GCHG BAT GND VALUE={ -ICHG * 0.5*(1+TANH((V(VIN_OK)-1.0)/0.1)) * 0.5*(1+TANH((V(TS_OK)-1.0)/0.1)) * 0.5*(1+TANH((4.2-V(BAT,GND))/0.05)) }

* SYS output: power-path regulator
* Ideal diode-OR between IN and BAT, with dropout and current limit
* SYS voltage = min( max(IN-0.2, BAT-0.05), 4.4V ) when VIN_OK; else BAT
BSYSV SYS_CTRL 0 V=V(VIN_OK)>1.0 ? (V(IN,GND)-0.2 < V(BAT,GND)-0.05 ? V(BAT,GND)-0.05 : (V(IN,GND)-0.2 > 4.4 ? 4.4 : V(IN,GND)-0.2)) : V(BAT,GND)

* Output impedance / current limit of SYS (~1.5A max)
EVOUT SYS_INT 0 VALUE={V(SYS_CTRL,GND)}
RSYS SYS_INT SYS 50m

* PGOOD open-drain: low when VIN valid
BPGOOD PGOOD GND V=V(VIN_OK)>1.0?0:3.3
RPD_PGOOD PGOOD GND 10MEG

* CHG open-drain: low when charging (current flowing into BAT)
BCHG CHG GND V=V(VIN_OK)>1.0 && V(TS_OK)>1.0 && V(BAT,GND)<4.15?0:3.3
RPD_CHG CHG GND 10MEG

.ENDS BQ24074
